US04678781
The starting material may be prepared by reaction of 3-methoxy-5-methylisoxazole with trimethyloxonium tetrafluoroborate in CH2Cl2 for 3.5 hours at reflux to give 2,5-dimethyl-3-methoxyisoxazolium tetrafluoroborate.

reactant | 3-methoxy-5-methylisoxazole | COC1=NOC(=C1)C | C5H7NO2
reactant | trimethyloxonium tetrafluoroborate | F[B-](F)(F)F.C[O+](C)C
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2,5-dimethyl-3-methoxyisoxazolium tetrafluoroborate | F[B-](F)(F)F.C[N+]=1OC(=CC1OC)C | InChI=1S/C6H10NO2.BF4/c1-5-4-6(8-3)7(2)9-5;2-1(3,4)5/h4H,1-3H3;/q+1;-1
